US04335119
Preparation of p-(2-Hydroxyethoxy)-phenylacetonitrile
5 g p-hydroxyphenylacetonitrile were dissolved in 250 ml methylethylketone. 7 g of 2-bromoethanol and 23 g potassium carbonate were added thereto. The mixture was stirred for 48 hours under reflux. At the end of the reaction the potassium carbonate and the produced potassium bromide were filtered. The precipitates were washed with acetone and the acetone wash was added to the reaction mixture. The clear solution was reduced to about 10-15 ml. It was then taken up in ether and shaken with 1/100 N sodium hydroxide.

reactant | p-hydroxyphenylacetonitrile | 5 g | OC1=CC=C(C=C1)CC#N | C8H7NO
reactant | 2-bromoethanol | 7 g | BrCCO | C2H5BrO
reactant | potassium carbonate | 23 g | C([O-])([O-])=O.[K+].[K+]
solvent | methylethylketone | 250 ml | CC(=O)CC | C4H8O
product | p-(2-Hydroxyethoxy)-phenylacetonitrile | OCCOC1=CC=C(C=C1)CC#N | C10H11NO2
